US07781438B2
Preparation of (6-Chloro-3-methyl-quinolin-5-yl)-acetic acid methyl ester
To a solution of 6-chloro-3-methyl-5-(2,2,2-trichloro-ethyl)quinoline (4.11 g, 13.3 mmol) in anhydrous methanol (35 mL) was added a 30% solution of NaOMe in methanol (10.7 mL) under an argon atmosphere. The resulting brown solution was heated for 4 h at 70° C. After cooling to 0° C., concentrated H2SO4 (7 mL) was carefully added and the resulting reaction mixture was heated for 1 h at 70° C. After cooling the reaction mixture was rendered basic (pH=9) with a saturated aqueous NaHCO3 solution and extracted three times with TBDM. The combined organic layers were dried over Na2SO4, filtered and concentrated at reduced pressure to afford a brown solid. Purification by flash column chromatography (silica gel, gradient of cyclohexane/EtOAc 100:0 to 80:20) afforded the title compound as a white powder (2.22 g, 8.90 mmol, 67%). 1H NMR (400 MHz, CDCl3, 298 K): δ=8.80 (s, 1H), 8.09 (s, 1H), 8.05 (d, J=9.2 Hz, 1H), 7.69 (d, J=9.2 Hz, 1H), 4.29 (s, 2H), 3.73 (s, 3H), 2.59 (s, 3H). MS (ES+): 250 (M(C13H1235ClNO2)+H)+.

reactant | 6-chloro-3-methyl-5-(2,2,2-trichloro-ethyl)quinoline | 13.3 mmol, 4.11 g | ClC=1C(=C2C=C(C=NC2=CC1)C)CC(Cl)(Cl)Cl | C12H9Cl4N
reactant | NaOMe | C[O-].[Na+]
reactant | H2SO4 | 7 mL | OS(=O)(=O)O | H2O4S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol | 35 mL | CO | CH4O
solvent | methanol | 10.7 mL | CO | CH4O
product | (6-Chloro-3-methyl-quinolin-5-yl)-acetic acid methyl ester | 8.90 mmol, 2.22 g, 67% | COC(CC1=C2C=C(C=NC2=CC=C1Cl)C)=O | C13H12ClNO2
